US04990508
In 60 ml of anhydrous tetrahydrofuran was dissolved 6.00 g of ethyl 4-(2-carboxycyclopropyl)-2,3,5-trifluorobenzoate. To the resulting solution was added 42 ml of a 1M solution of borane in tetrahydrofuran with ice-cooling. The resulting mixture was stirred for 1.5 hours at room temperature. The reaction mixture was added to a mixture of 100 ml of ethyl acetate and 100 ml of water. The resulting mixture was adjusted to pH 1 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: toluene/ethyl acetate=4/1) to obtain 4.40 g (yield: 77.1%) of ethyl 4-(2-hydroxymethylcyclopropyl)-2,3,5-trifluorobenzoate.

reactant | ethyl 4-(2-carboxycyclopropyl)-2,3,5-trifluorobenzoate | 6.00 g | C(=O)(O)C1C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C13H11F3O4
reactant | borane | B | BH3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | ethyl 4-(2-hydroxymethylcyclopropyl)-2,3,5-trifluorobenzoate | 4.40 g, yield: 77.1% | OCC1C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C13H13F3O3
